US08895544B2
5-Ethyl-2-fluoro-4-[3-(5-[1,8]naphthyridin-2-ylmethyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol
The title compound was prepared from [1,8]naphthyridine-2-carbaldehyde (31 mg, 198 μmol) and 5-ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt (Preparation 25, 50 mg, 132 μmol) using the method of Example 22. The crude material was purified by HPLC Method B to afford 22.5 mg of the title compound.

reactant | [1,8]naphthyridine-2-carbaldehyde | 198 μmol, 31 mg | N1=C(C=CC2=CC=CN=C12)C=O | C9H6N2O
reactant | 5-ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt | 132 μmol, 50 mg | Br.Br.Br.C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1
product | 5-Ethyl-2-fluoro-4-[3-(5-[1,8]naphthyridin-2-ylmethyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol | 22.5 mg | C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CN(CC2)CC2=NC3=NC=CC=C3C=C2)N1 | C30H26FN7O
